### PR TITLE
[Merged by Bors] - feat(Analysis.Normed.Ring.Seminorm): add SmoothingSeminorm

### PR DESCRIPTION
**Pull request by mariainesdff**
We prove Proposition 1.3.2/1 from S. Bosch, U. Güntzer, R. Remmert, *Non-Archimedean Analysis*: if `f` is a nonarchimedean seminorm on `R`, then `iInf (fun n : PNat => (f (x ^ (n : ℕ))) ^ (1 / (n : ℝ)))` is a power-multiplicative nonarchimedean seminorm on `R`.

---

- [x] depends on: #18173
- [x] depends on: #18172
- [x] depends on: #18171
- [x] depends on: #16767
- [x] depends on: #16768
- [x] depends on: #16770

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jcommelin** [comment]
This PR is quite large. Are you planning to split it up?

File: Mathlib/Data/Real/Basic.lean [hunk 1]
```diff
@@ -607,3 +607,11 @@ def IsPowMul {R : Type*} [Pow R ℕ] (f : R → ℝ) :=
 def RingHom.IsBoundedWrt {α : Type*} [Ring α] {β : Type*} [Ring β] (nα : α → ℝ) (nβ : β → ℝ)
     (f : α →+* β) : Prop :=
   ∃ C : ℝ, 0 < C ∧ ∀ x : α, nβ (f x) ≤ C * nα x
+
+/-- If `x` is multiplicative with respect to `f`, then so is any `x^n`. -/
+theorem pow_isMul_of_isMul {R : Type _} [CommRing R] (f : R → ℝ) {x : R}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Real/Basic.lean:612]:
```suggestion
theorem pow_isMul_of_isMul {R : Type*} [CommRing R] (f : R → ℝ) {x : R}
```

File: Mathlib/Data/Real/Basic.lean [hunk 2]
```diff
@@ -607,3 +607,11 @@ def IsPowMul {R : Type*} [Pow R ℕ] (f : R → ℝ) :=
...
+    (hx : ∀ y : R, f (x * y) = f x * f y) : ∀ (n : ℕ) (y : R), f (x ^ n * y) = f x ^ n * f y := by
+  intro n
+  induction n with
+  | zero => intro y; rw [pow_zero, pow_zero, one_mul, one_mul]
+  | succ n hn => intro y; rw [pow_succ', pow_succ', mul_assoc, mul_assoc, hx, hn]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Real/Basic.lean:617]: I would write (untested):
```suggestion
    (hx : ∀ y : R, f (x * y) = f x * f y) (n : ℕ) (y : R) : f (x ^ n * y) = f x ^ n * f y := by
  induction n generalizing y with
  | zero => rw [pow_zero, pow_zero, one_mul, one_mul]
  | succ n hn => rw [pow_succ', pow_succ', mul_assoc, mul_assoc, hx, hn]
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 3]
```diff
@@ -0,0 +1,606 @@
...
+smoothingSeminorm, seminorm, nonarchimedean
+-/
+
+noncomputable section
+
+open Real
+
+open scoped Topology NNReal
+
+open Filter Nat Real
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:45]:
```suggestion
open Filter Nat Real
open scoped Topology NNReal
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 4]
```diff
@@ -0,0 +1,606 @@
...
+
+variable {R : Type _} [CommRing R] (f : RingSeminorm R)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:47]:
```suggestion
variable {R : Type*} [CommRing R] (f : RingSeminorm R)
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 5]
```diff
@@ -0,0 +1,606 @@
...
+
+section smoothingSeminorm
+
+/-- The `ℝ`-valued sequence sending `n` to `(f (x ^ n))^(1/n : ℝ)`. -/
+def smoothingSeminormSeq (x : R) : ℕ → ℝ := fun n => f (x ^ n) ^ (1 / n : ℝ)
+
+/-- For any positive `ε`, there exists a positive natural number `m` such that
+  `f (x ^ (m : ℕ)) ^ (1 / m : ℝ) < iInf (λ (n : pnat), (f(x ^(n : ℕ)))^(1/(n : ℝ))) + ε/2`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:55]:
```suggestion
  `f (x ^ (m : ℕ)) ^ (1 / m : ℝ) < iInf (fun n : PNat => (f(x ^(n : ℕ)))^(1/(n : ℝ))) + ε/2`. -/
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 6]
```diff
@@ -0,0 +1,606 @@
...
+  exact rpow_nonneg (apply_nonneg f _) _
+
+/-- The iInf of the sequence `f(x^(n : ℕ)))^(1/(n : ℝ)`. -/
+def smoothingSeminorm' (x : R) : ℝ :=
+  iInf fun n : PNat => f (x ^ (n : ℕ)) ^ (1 / (n : ℝ))
+
+/-- If `f x = 0`, then `smoothingSeminorm' f x` is the limit of `smoothingSeminormSeq f x`. -/
+theorem smoothingSeminorm'_isLimit_zero {x : R} (hx : f x = 0) :
+    Tendsto (smoothingSeminormSeq f x) atTop (𝓝 (smoothingSeminorm' f x)) := by
+  have h0 : ∀ (n : ℕ) (_hn : 1 ≤ n), f (x ^ n) ^ (1 / (n : ℝ)) = 0 := fun n hn ↦ by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:95]:
```suggestion
  have h0 (n : ℕ) (hn : 1 ≤ n) : f (x ^ n) ^ (1 / (n : ℝ)) = 0 := by
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 7]
```diff
@@ -0,0 +1,606 @@
...
+  have hL0 : (iInf fun n : PNat => f (x ^ (n : ℕ)) ^ (1 / (n : ℝ))) = 0 :=
+    le_antisymm
+      (ciInf_le_of_le (smoothingSeminormSeq_bddBelow f x) (1 : PNat) (le_of_eq (h0 1 (le_refl _))))
+      (le_ciInf fun n => rpow_nonneg (apply_nonneg f _) _)
+  simp only [hL0, smoothingSeminormSeq, smoothingSeminorm']
+  exact tendsto_atTop_of_eventually_const h0
+
+/-- If `f 1 ≤ 1` and `f x ≠  0`, then `smoothingSeminorm' f x` is the limit of
+`smoothingSeminormSeq f x`. -/
+theorem smoothingSeminorm'_isLimit_ne_zero (hf1 : f 1 ≤ 1) {x : R} (hx : f x ≠ 0) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:110]: Maybe
```suggestion
theorem tendsto_smoothingSeminorm'_of_ne_zero (hf1 : f 1 ≤ 1) {x : R} (hx : f x ≠ 0) :
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Haven't looked at the mathematics, but here's style and naming comments

File: Mathlib/Data/Real/Basic.lean (hunk 2 above)
Comment (mariainesdff) [reply Mathlib/Data/Real/Basic.lean:617]: I tested your suggestion, but it does not work.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 8]
```diff
@@ -0,0 +1,606 @@
...
+private theorem f_bddAbove' (hf1 : f 1 ≤ 1) {s : ℕ → ℕ} (hs : ∀ n : ℕ, s n ≤ n) (x : R)
+    (ψ : ℕ → ℕ) : BddAbove ((fun n : ℕ => f (x ^ s (ψ n)) ^ (1 / (ψ n : ℝ))) '' Set.univ) := by
+  rw [Set.image_eq_range]
+  convert f_bddAbove f hf1 hs x ψ
+  ext
+  simp only [one_div, Set.mem_range, Subtype.exists, Set.mem_univ, exists_const]
+
+private theorem f_nonempty {s : ℕ → ℕ} (hs_le : ∀ n : ℕ, s n ≤ n) {x : R} (ψ : ℕ → ℕ) :
+    {a : ℝ | ∀ᶠ n : ℝ in map (fun n : ℕ => f x ^ (↑(s (ψ n)) * (1 / (ψ n : ℝ)))) atTop,
+      n ≤ a}.Nonempty := by
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:321]: In this case, the second line would not fit.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 9]
```diff
@@ -0,0 +1,606 @@
...
+        fun n : ℕ => f (x ^ s (ψ n)) ^ (1 / (ψ n : ℝ)) := by
+      have h : (fun n : ℕ => (1 : ℝ) / (s (ψ n) : ℝ) * (s (ψ n) : ℝ)) =ᶠ[atTop] 1 := by
+        apply Filter.EventuallyEq.div_mul_cancel_atTop
+        exact  (Tendsto.num (tendsto_natCast_atTop_atTop.comp hψ_mono.tendsto_atTop) ha_pos hψ_lim)
+      simp_rw [← rpow_mul (apply_nonneg f _), mul_div]
+      exact EventuallyEq.comp₂ EventuallyEq.rfl HPow.hPow (h.div EventuallyEq.rfl)
+    exact le_of_eq (Tendsto.limsup_eq (Tendsto.congr' h_eq
+      ((((smoothingSeminorm'_isLimit f hf1 x).comp ((tendsto_natCast_atTop_iff (R := ℝ)).mp <|
+      Tendsto.num (tendsto_natCast_atTop_atTop.comp hψ_mono.tendsto_atTop)
+        ha_pos hψ_lim)).rpow hψ_lim (Or.inr ha_pos)))))
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:405]: I could split it into `applys`, but I suspect that if I do that I will be asked to golf it again.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 10]
```diff
@@ -0,0 +1,606 @@
...
+  apply le_trans _ hN.le
+  simp only [PNat.mk_coe, hnu, ← mul_rpow (apply_nonneg f _) (apply_nonneg f _)]
+  exact mu_property f hn (ψ N)
+
+end IsNonarchimedean
+
+/-- If `f 1 ≤ 1` and `f` is nonarchimedean, then `smoothingSeminorm'` is a ring seminorm. -/
+def smoothingSeminorm (hf1 : f 1 ≤ 1) (hna : IsNonarchimedean f) : RingSeminorm R where
+  toFun     := smoothingSeminorm' f
+  map_zero' := by
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:491]: My impression from related PRs is that this would be discouraged.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 11]
```diff
@@ -0,0 +1,606 @@
...
+    have hm' : (m : ℝ) ≠ 0 := cast_ne_zero.mpr (_root_.ne_of_gt (lt_of_lt_of_le zero_lt_one hm))
+    intro n
+    simp only [smoothingSeminormSeq]
+    rw [pow_mul, ← rpow_natCast, ← rpow_mul (apply_nonneg f _), cast_mul, ← one_div_mul_one_div,
+      mul_comm (1 / (m : ℝ)), mul_assoc, one_div_mul_cancel hm', mul_one]
+  simp_rw [h_eq]
+  exact smoothingSeminorm'_isLimit f hf1 _
+
+/-- If `f 1 ≤ 1` and `∀ (1 ≤ n), f (x ^ n) = f x ^ n`, then `smoothingSeminorm' f x = f x`. -/
+theorem smoothingSeminorm_of_powMul (hf1 : f 1 ≤ 1) {x : R}
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:544]: `powMul` denotes that `x` is power-multiplicative with respect to `f`.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 12]
```diff
@@ -0,0 +1,606 @@
...
+    tendsto_const_nhds
+  simp only [EventuallyEq, eventually_atTop, ge_iff_le]
+  use 1
+  intro n hn
+  simp only [smoothingSeminormSeq]
+  have hn0 : (n : ℝ) ≠ 0 := cast_ne_zero.mpr (one_le_iff_ne_zero.mp hn)
+  rw [hx n hn, ← rpow_natCast, ← rpow_mul (apply_nonneg f _), mul_one_div_cancel hn0, rpow_one]
+
+/-- If `f 1 ≤ 1` and `∀ y : R, f (x * y) = f x * f y`, then `smoothingSeminorm' f x = f x`. -/
+theorem smoothingSeminorm_apply_of_is_mul' (hf1 : f 1 ≤ 1) {x : R}
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:556]: Renamed to `smoothingSeminorm'_apply_of_isMul`.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 13]
```diff
@@ -0,0 +1,606 @@
...
+
+/-- If `f 1 ≤ 1`, `f` is nonarchimedean, and `∀ y : R, f (x * y) = f x * f y`, then
+  `smoothingSeminorm f hf1 hna x = f x`. -/
+theorem smoothingSeminorm_apply_of_is_mul (hf1 : f 1 ≤ 1) (hna : IsNonarchimedean f) {x : R}
+    (hx : ∀ y : R, f (x * y) = f x * f y) : smoothingSeminorm f hf1 hna x = f x :=
+  smoothingSeminorm_apply_of_is_mul' f hf1 hx
+
+/-- If `f 1 ≤ 1`, and `x` is multiplicative for `f`, then it is multiplicative for
+  `smoothingSeminorm'`. -/
+theorem smoothingSeminorm_of_mul' (hf1 : f 1 ≤ 1) {x : R} (hx : ∀ y : R, f (x * y) = f x * f y)
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:582]: Renamed to `smoothingSeminorm'_of_isMul`.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 14]
```diff
@@ -0,0 +1,606 @@
...
+    apply le_of_tendsto_of_tendsto' (smoothingSeminorm'_isLimit f hf1 (x * y))
+      (Tendsto.mul (smoothingSeminorm'_isLimit f hf1 x) (smoothingSeminorm'_isLimit f hf1 y))
+    intro n
+    have hn : 0 ≤ 1 / (n : ℝ) := by simp only [one_div, inv_nonneg, cast_nonneg]
+    simp only [smoothingSeminormSeq]
+    rw [← mul_rpow (apply_nonneg f _) (apply_nonneg f _), mul_pow]
+    exact rpow_le_rpow (apply_nonneg f _) (map_mul_le_mul f _ _) hn
+
+/-- If `f 1 ≤ 1` and `f` is nonarchimedean, then `smoothingSeminorm f hf1 hna 1 ≤ 1`. -/
+theorem smoothingSeminorm_is_seminorm_is_norm_le_one_class (hf1 : f 1 ≤ 1)
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:520]: I suspect this was at some point renamed by mistake. I have changed it to `smoothingSeminorm_map_one_le_one`.

**Comment by mariainesdff** [comment]
> Haven't looked at the mathematics, but here's style and naming comments

Thanks!

File: Mathlib/Data/Real/Basic.lean [hunk 15]
```diff
@@ -607,3 +607,11 @@ def IsPowMul {R : Type*} [Pow R ℕ] (f : R → ℝ) :=
 def RingHom.IsBoundedWrt {α : Type*} [Ring α] {β : Type*} [Ring β] (nα : α → ℝ) (nβ : β → ℝ)
     (f : α →+* β) : Prop :=
   ∃ C : ℝ, 0 < C ∧ ∀ x : α, nβ (f x) ≤ C * nα x
+
+/-- If `x` is multiplicative with respect to `f`, then so is any `x^n`. -/
+theorem pow_isMul_of_isMul {R : Type*} [CommRing R] (f : R → ℝ) {x : R}
+    (hx : ∀ y : R, f (x * y) = f x * f y) : ∀ (n : ℕ) (y : R), f (x ^ n * y) = f x ^ n * f y := by
```
Comment (faenuccio) [inline Mathlib/Data/Real/Basic.lean:613]:
```suggestion
theorem pow_isMul_of_isMul {R : Type*} [MonoidWithZero R] {f : R → ℝ} {x : R}
```
The result holds in greater generality.

File: Mathlib/Data/Real/Basic.lean [hunk 16]
```diff
@@ -607,3 +607,11 @@ def IsPowMul {R : Type*} [Pow R ℕ] (f : R → ℝ) :=
 def RingHom.IsBoundedWrt {α : Type*} [Ring α] {β : Type*} [Ring β] (nα : α → ℝ) (nβ : β → ℝ)
     (f : α →+* β) : Prop :=
   ∃ C : ℝ, 0 < C ∧ ∀ x : α, nβ (f x) ≤ C * nα x
+
+/-- If `x` is multiplicative with respect to `f`, then so is any `x^n`. -/
```
Comment (faenuccio) [inline Mathlib/Data/Real/Basic.lean:611]: It would be interesting to have this accept a `@[to_additive]` tag, since the following works:
```
-- theorem fae {R : Type*} [CommRing R] (f : R → ℝ) {x : R}
--     (hx : ∀ y : R, f (x + y) = f x + f y) : ∀ (n : ℕ) (y : R), f (n * x + y) = n * f x + f y := by
--   intro n
--   induction n with
--   | zero => intro y; rw [Nat.cast_zero, zero_mul, Nat.cast_zero, zero_mul, zero_add, zero_add]
--   | succ n hn => intro y; rw [Nat.cast_succ, Nat.cast_succ, 
--     add_mul, one_mul, add_mul, one_mul, add_assoc, hn (x + y), hx, ← add_assoc]
```
but the proof is slightly different and cannot be stupidly ported.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 17]
```diff
@@ -0,0 +1,604 @@
...
+-/
+import Mathlib.Analysis.Normed.Ring.Seminorm
+import Mathlib.Analysis.SpecialFunctions.Pow.Continuity
+import Mathlib.Topology.MetricSpace.Sequences
+
+/-!
+# smoothingSeminorm
+In this file, we prove [BGR, Proposition 1.3.2/1][bosch-guntzer-remmert] : if `f` is a
+nonarchimedean seminorm on `R`, then `iInf (fun (n : pnat), (f(x^(n : ℕ)))^(1/(n : ℝ)))` is a
+power-multiplicative nonarchimedean seminorm on `R`.
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:14]:
```suggestion
nonarchimedean seminorm on a commutative ring `R`, then
`iInf (fun (n : pnat), (f(x ^ (n : ℕ))) ^ (1 / (n : ℝ)))` is a power-multiplicative nonarchimedean seminorm on `R`.
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 18]
```diff
@@ -0,0 +1,604 @@
...
+
+## Main Definitions
+* `smoothingSeminormSeq` : the `ℝ`-valued sequence sending `n` to `(f (x ^ n))^(1/n : ℝ)`.
+* `smoothingSeminorm'` : the iInf of the sequence `f(x^(n : ℕ)))^(1/(n : ℝ)`.
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:18]:
```suggestion
* `smoothingSeminorm'` : the iInf of the sequence `n ↦ f(x^(n : ℕ)))^(1/(n : ℝ)`.
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 19]
```diff
@@ -0,0 +1,604 @@
...
+smoothingSeminorm, seminorm, nonarchimedean
+-/
+
+noncomputable section
+
+open Filter Nat Real
+
+open scoped Topology NNReal
+
+variable {R : Type*} [CommRing R] (f : RingSeminorm R)
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:45]: This is really minor: but what about changing `f` to something that remembers a norm, like `ν` or `μ`?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 20]
```diff
@@ -0,0 +1,604 @@
...
+      exact Tendsto.neg h_exp
+    rw [← rpow_zero (L + ε)]
+    apply Tendsto.rpow tendsto_const_nhds h0
+    rw [ne_eq, add_eq_zero_iff_of_nonneg hL (le_of_lt hε)]
+    exact Or.inl (not_and_of_not_right _ (ne_of_gt hε))
+  · simp_rw [mul_one, ← rpow_natCast, ← rpow_mul (apply_nonneg f x), ← mul_div_assoc, mul_one, ←
+      rpow_zero (f x)]
+    exact Tendsto.rpow tendsto_const_nhds h_exp (Or.inl hx)
+
+/-- `smoothingSeminormSeq` is bounded below by zero. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:79]: The statement only says it is bounded below; do you want to add a lemma saying that the bound is `0`?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 21]
```diff
@@ -0,0 +1,604 @@
...
+theorem smoothingSeminormSeq_bddBelow (x : R) :
+    BddBelow (Set.range fun n : ℕ+ => f (x ^ (n : ℕ)) ^ (1 / (n : ℝ))) := by
+  use 0
+  rintro y ⟨n, rfl⟩
+  exact rpow_nonneg (apply_nonneg f _) _
+
+/-- The iInf of the sequence `f(x^(n : ℕ)))^(1/(n : ℝ)`. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:86]:
```suggestion
/-- The iInf of the sequence `n ↦ f(x ^ (n : ℕ))) ^ (1 / (n : ℝ)`. -/
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 22]
```diff
@@ -0,0 +1,604 @@
...
+def smoothingSeminorm' (x : R) : ℝ :=
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:87]: Why the prime?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 23]
```diff
@@ -0,0 +1,604 @@
...
+      apply le_antisymm _ (apply_nonneg f _)
+      rw [← zero_pow (pos_iff_ne_zero.mp hn), ← hx]
+      exact map_pow_le_pow _ x (one_le_iff_ne_zero.mp hn)
+    rw [hfn, zero_rpow (one_div_cast_ne_zero (one_le_iff_ne_zero.mp hn))]
+  have hL0 : (iInf fun n : PNat => f (x ^ (n : ℕ)) ^ (1 / (n : ℝ))) = 0 :=
+    le_antisymm
+      (ciInf_le_of_le (smoothingSeminormSeq_bddBelow f x) (1 : PNat) (le_of_eq (h0 1 (le_refl _))))
+      (le_ciInf fun n => rpow_nonneg (apply_nonneg f _) _)
+  simp only [hL0, smoothingSeminormSeq, smoothingSeminorm']
+  exact tendsto_atTop_of_eventually_const h0
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:104]:
```suggestion
  simpa only [hL0, smoothingSeminormSeq, smoothingSeminorm'] using 
    tendsto_atTop_of_eventually_const h0
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 24]
```diff
@@ -0,0 +1,604 @@
...
+
+/-- If `f 1 ≤ 1` and `f x ≠  0`, then `smoothingSeminorm' f x` is the limit of
+`smoothingSeminormSeq f x`. -/
+theorem tendsto_smoothingSeminorm'_of_ne_zero (hf1 : f 1 ≤ 1) {x : R} (hx : f x ≠ 0) :
+    Tendsto (smoothingSeminormSeq f x) atTop (𝓝 (smoothingSeminorm' f x)) := by
+  simp only [smoothingSeminorm']
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:110]: It seems to me that `smoothingSeminorm' ` should rather be an `abbrev`, that would permit to get rid of all this `simp only`'s, being more reducible.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 25]
```diff
@@ -0,0 +1,604 @@
...
+  set L := iInf fun n : PNat => f (x ^ (n : ℕ)) ^ (1 / (n : ℝ))
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:111]:
```suggestion
  let L := iInf fun n : PNat => f (x ^ (n : ℕ)) ^ (1 / (n : ℝ))
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 26]
```diff
@@ -0,0 +1,604 @@
...
+  have hn0 : 0 < n := lt_of_lt_of_le (lt_of_lt_of_le (PNat.pos m1) (le_max_left (m1 : ℕ) m2)) hn
+  rw [Real.dist_eq, abs_lt]
+  have hL_le : L ≤ smoothingSeminormSeq f x n := by
+    simp only [smoothingSeminormSeq]
+    rw [← PNat.mk_coe n hn0]
+    apply ciInf_le (smoothingSeminormSeq_bddBelow f x)
+  refine ⟨lt_of_lt_of_le (neg_lt_zero.mpr hε) (sub_nonneg.mpr hL_le), ?_⟩
+  · suffices h : smoothingSeminormSeq f x n < L + ε by
+      rw [tsub_lt_iff_left hL_le]
+      exact h
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:144]:
```suggestion
      rwa [tsub_lt_iff_left hL_le]
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 27]
```diff
@@ -0,0 +1,604 @@
...
+variable {R : Type*} [CommRing R] (f : RingSeminorm R)
+
+section smoothingSeminorm
+
+/-- The `ℝ`-valued sequence sending `n` to `(f (x ^ n))^(1/n : ℝ)`. -/
+def smoothingSeminormSeq (x : R) : ℕ → ℝ := fun n => f (x ^ n) ^ (1 / n : ℝ)
+
+/-- For any positive `ε`, there exists a positive natural number `m` such that
+  `f (x ^ (m : ℕ)) ^ (1 / m : ℝ) < iInf (fun (n : pnat), (f(x ^(n : ℕ)))^(1/(n : ℝ))) + ε/2`. -/
+private theorem smoothingSeminormSeq_hasLimit_m (x : R) {ε : ℝ} (hε : 0 < ε) :
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:54]: Do we really want the `_m` at the end of the name?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 28]
```diff
@@ -0,0 +1,604 @@
...
+    le_antisymm
+      (ciInf_le_of_le (smoothingSeminormSeq_bddBelow f x) (1 : PNat) (le_of_eq (h0 1 (le_refl _))))
+      (le_ciInf fun n => rpow_nonneg (apply_nonneg f _) _)
+  simp only [hL0, smoothingSeminormSeq, smoothingSeminorm']
+  exact tendsto_atTop_of_eventually_const h0
+
+/-- If `f 1 ≤ 1` and `f x ≠  0`, then `smoothingSeminorm' f x` is the limit of
+`smoothingSeminormSeq f x`. -/
+theorem tendsto_smoothingSeminorm'_of_ne_zero (hf1 : f 1 ≤ 1) {x : R} (hx : f x ≠ 0) :
+    Tendsto (smoothingSeminormSeq f x) atTop (𝓝 (smoothingSeminorm' f x)) := by
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:109]: Can you add a bit of explanation for this long proof?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 29]
```diff
@@ -0,0 +1,604 @@
...
+              f (x ^ (n % m1)) ^ (1 / (n : ℝ)) := ((mul_le_mul_right h4).mpr h)
+        _ < (L + ε / 2) * (L + ε / 2) ^ (-(((n % m1 : ℕ) : ℝ) / (n : ℝ))) *
+              f (x ^ (n % m1)) ^ (1 / (n : ℝ)) := (mul_lt_mul h1 (le_refl _) h4 (le_of_lt h5))
+        _ ≤ (L + ε / 2) * (L + ε / 2) ^ (-(((n % m1 : ℕ) : ℝ) / (n : ℝ))) *
+              (f x ^ (n % m1)) ^ (1 / (n : ℝ)) := ((mul_le_mul_left h5).mpr h2)
+        _ ≤ L + ε := h3
+
+/-- If `f 1 ≤ 1`, then `smoothingSeminorm' f x` is the limit of `smoothingSeminormSeq f x`
+  as `n` tends to infinity. -/
+theorem tendsto_smoothingSeminorm' (hf1 : f 1 ≤ 1) (x : R) :
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:213]:
```suggestion
theorem tendsto_smoothingSeminorm'_of_le_one (hf1 : f 1 ≤ 1) (x : R) :
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 30]
```diff
@@ -0,0 +1,604 @@
...
+    Tendsto (smoothingSeminormSeq f x) atTop (𝓝 (smoothingSeminorm' f x)) := by
+  by_cases hx : f x = 0
+  · exact tendsto_smoothingSeminorm'_of_eq_zero f hx
+  · exact tendsto_smoothingSeminorm'_of_ne_zero f hf1 hx
+
+/-- If `f 1 ≤ 1`, then `smoothingSeminorm' f x` is nonnegative. -/
+theorem smoothingSeminorm_nonneg (hf1 : f 1 ≤ 1) (x : R) : 0 ≤ smoothingSeminorm' f x := by
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:220]: A prime in `smoothingSeminorm` is lacking (which brings me back at the question about its existence).

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 31]
```diff
@@ -0,0 +1,604 @@
...
+  apply ge_of_tendsto (tendsto_smoothingSeminorm' f hf1 x)
+  simp only [eventually_atTop, ge_iff_le]
+  exact ⟨1, fun _ _ ↦ rpow_nonneg (apply_nonneg f _) _⟩
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:223]:
```suggestion
  simpa only [eventually_atTop, ge_iff_le] using ⟨1, fun _ _ ↦ rpow_nonneg (apply_nonneg f _) _⟩
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 32]
```diff
@@ -0,0 +1,604 @@
...
+
+/-- If `f 1 ≤ 1`, then `smoothingSeminorm' f 1 ≤ 1`. -/
+theorem smoothingSeminorm_one_le (hf1 : f 1 ≤ 1) : smoothingSeminorm' f 1 ≤ 1 := by
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:226]: Ditto about `'`

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 33]
```diff
@@ -0,0 +1,604 @@
...
+  simp only [smoothingSeminormSeq]
+  rw [one_pow]
+  conv_rhs => rw [← one_rpow (1 / n : ℝ)]
+  have hn1 : 0 < (1 / n : ℝ) := by
+    apply div_pos zero_lt_one
+    rw [← cast_zero, cast_lt]
+    exact succ_le_iff.mp hn
+  exact (rpow_le_rpow_iff (apply_nonneg f _) zero_le_one hn1).mpr hf1
+
+/-- For any `x` and any positive `n`, `smoothingSeminorm' f x ≤ f (x^(n : ℕ))^(1/n : ℝ)`. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:240]:
```suggestion
/-- For any `x` and any positive `n`, `smoothingSeminorm' f x ≤ f (x ^ (n : ℕ)) ^ (1 / n : ℝ)`. -/
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 34]
```diff
@@ -0,0 +1,604 @@
...
+theorem smoothingSeminorm_le_term (x : R) (n : PNat) :
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:241]:
```suggestion
theorem smoothingSeminorm_le (x : R) (n : PNat) :
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 35]
```diff
@@ -0,0 +1,604 @@
...
+    smoothingSeminorm' f x ≤ f (x ^ (n : ℕ)) ^ (1 / n : ℝ) :=
+  ciInf_le (smoothingSeminormSeq_bddBelow f x) _
+
+/-- For all `x : R`, `smoothingSeminorm' f x ≤ f x`. -/
+theorem smoothingSeminorm_le (x : R) : smoothingSeminorm' f x ≤ f x := by
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:246]:
```suggestion
theorem smoothingSeminorm_le_self (x : R) : smoothingSeminorm' f x ≤ f x := by
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 36]
```diff
@@ -0,0 +1,604 @@
...
+  convert smoothingSeminorm_le_term f x 1
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:247]:
```suggestion
  apply (smoothingSeminorm_le_term f x 1).trans
```

**Review by faenuccio — COMMENTED** [review]
I have started a review, and stopped at `section IsNonarchimedean` of `SmoothingSeminorm.lean`.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 27 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:54]: I have renamed this to `smoothingSeminormSeq_exists_pnat`. To be honest, I do not know what would be a good name for this theorem, but since it is private I did not think the naming was too problematic.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 22 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:87]: OK, I can use `smoothingFun` for this.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 29 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:213]: How about `tendsto_smoothingFun_of_map_one_le_one`?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 24 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:110]: I have turned both `smoothingFun` and `smoothingSeminormSeq` intro abbrevs. This allowed me to remove some of the simp onlys, but not all of them.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 20 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:80]: I only need that it is bounded below, but I could add that lemma if you think it would be helpful.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 19 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:46]: I renamed `f` to  `μ`.

File: Mathlib/Data/Real/Basic.lean (hunk 16 above)
Comment (mariainesdff) [reply Mathlib/Data/Real/Basic.lean:611]: Do you think this could be done in a different PR?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 28 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean]: I have added comments inside the proof.

File: Mathlib/Data/Real/Basic.lean (hunk 16 above)
Comment (faenuccio) [reply Mathlib/Data/Real/Basic.lean:611]: Sure!

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 20 above)
Comment (faenuccio) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean]: Yes, this might be a good idea.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 29 above)
Comment (faenuccio) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean]: Sounds good!

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 37]
```diff
@@ -0,0 +1,621 @@
...
+      have hL0' : 0 < L + ε / 2 := add_pos_of_nonneg_of_pos hL0 (half_pos hε)
+      rw [heq, ← tsub_le_iff_left]
+      nth_rw 3 [← mul_one (L + ε / 2)]
+      rw [mul_assoc, ← mul_sub, mul_comm, ← le_div_iff₀ hL0', div_div]
+      exact hm2 n (le_trans (le_max_right (m1 : ℕ) m2) hn)
+    have h4 : 0 < μ (x ^ (n % ↑m1)) ^ (1 / (n : ℝ)) := rpow_pos_of_pos hxn' _
+    have h5 : 0 < (L + ε / 2) * (L + ε / 2) ^ (-(↑(n % ↑m1) / (n : ℝ))) :=
+      mul_pos hL0' (rpow_pos_of_pos hL0' _)
+    -- We combine the previous steps to deduce that
+    -- `μ (x ^ (↑m1 * (n / ↑m1) + n % ↑m1)) ^ (1 / ↑n) < L + ε`.
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:213]:
```suggestion
    /- We combine the previous steps to deduce that
    `μ (x ^ (↑m1 * (n / ↑m1) + n % ↑m1)) ^ (1 / ↑n) < L + ε`. -/
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 38]
```diff
@@ -0,0 +1,625 @@
...
+theorem smoothingFun_le_self (x : R) : smoothingFun μ x ≤ μ x := by
+  apply (smoothingFun_le μ x 1).trans
+  rw [PNat.one_coe, pow_one, cast_one, div_one, rpow_one]
+
+/- In this section, we prove that if `μ` is nonarchimedean, then `smoothingFun μ` is
+  nonarchimedean. -/
+section IsNonarchimedean
+
+/-- Auxiliary sequence for the proof that `smoothingFun` is nonarchimedean. -/
+private def mu {x y : R} (hn : ∀ n : ℕ, ∃ m < n + 1,
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:276]: Why don't you itnroduce `hn` as a `variable` so that you can remove it from the lemmas below?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 39]
```diff
@@ -0,0 +1,625 @@
...
+    (n : ℕ) : μ ((x + y) ^ (n : ℕ)) ^ (1 / (n : ℝ)) ≤
+      (μ (x ^ mu μ hn n) * μ (y ^ (n - mu μ hn n : ℕ))) ^ (1 / (n : ℝ)) :=
+  (Classical.choose_spec (hn n)).2
+
+
+private theorem mu_le {x y : R} (hn : ∀ n : ℕ, ∃ m < n + 1,
+      μ ((x + y) ^ (n : ℕ)) ^ (1 / (n : ℝ)) ≤ (μ (x ^ m) * μ (y ^ (n - m : ℕ))) ^ (1 / (n : ℝ)))
+    (n : ℕ) : mu μ hn n ≤ n := by
+  simp only [mu, ← Nat.lt_succ_iff]
+  exact (Classical.choose_spec (hn n)).1
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:291]:
```suggestion
  simpa only [mu, ← Nat.lt_succ_iff] using (Classical.choose_spec (hn n)).1
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 40]
```diff
@@ -0,0 +1,625 @@
...
+
+private theorem mu_bdd {x y : R} (hn : ∀ n : ℕ, ∃ m < n + 1,
+      μ ((x + y) ^ (n : ℕ)) ^ (1 / (n : ℝ)) ≤ (μ (x ^ m) * μ (y ^ (n - m : ℕ))) ^ (1 / (n : ℝ)))
+    (n : ℕ) : (mu μ hn n : ℝ) / n ∈ Set.Icc (0 : ℝ) 1 := by
+  refine Set.mem_Icc.mpr ⟨div_nonneg (cast_nonneg (mu μ hn n)) (cast_nonneg n), ?_⟩
+  by_cases hn0 : n = 0
+  · rw [hn0, cast_zero, div_zero]; exact zero_le_one
+  · have hn' : 0 < (n : ℝ) := cast_pos.mpr (Nat.pos_of_ne_zero hn0)
+    rw [div_le_one hn', cast_le]
+    exact mu_le _ _ _
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:301]:
```suggestion
  · rw [div_le_one (cast_pos.mpr (Nat.pos_of_ne_zero hn0)), cast_le]
    exact mu_le ..
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 41]
```diff
@@ -0,0 +1,625 @@
...
+      ∀ᶠ n : ℝ in map (fun n : ℕ => μ x ^ (↑(s (ψ n)) * (1 / (ψ n : ℝ)))) atTop, n ≤ a} := by
+  use 0
+  simp only [mem_lowerBounds, eventually_map, eventually_atTop, ge_iff_le, Set.mem_setOf_eq,
+    forall_exists_index]
+  intro r m hm
+  exact le_trans (rpow_nonneg (apply_nonneg μ _) _) (hm m (le_refl _))
+
+private theorem μ_bddAbove (hμ1 : μ 1 ≤ 1) {s : ℕ → ℕ} (hs : ∀ n : ℕ, s n ≤ n) (x : R)
+    (ψ : ℕ → ℕ) : BddAbove (Set.range fun n : ℕ => μ (x ^ s (ψ n)) ^ (1 / (ψ n : ℝ))) := by
+  have hψ : ∀ n : ℕ, 0 ≤ 1 / (ψ n : ℝ) := fun _ ↦ by simp only [one_div, inv_nonneg, cast_nonneg]
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:314]:
```suggestion
  have hψ : ∀ n, 0 ≤ 1 / (ψ n : ℝ) := fun _ ↦ by simp only [one_div, inv_nonneg, cast_nonneg]
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 42]
```diff
@@ -0,0 +1,625 @@
...
+    conv_rhs => rw [← rpow_one (μ x)]
+    rw [rpow_le_rpow_left_iff (not_le.mp hx)]
+    exact div_le_one_of_le₀ (cast_le.mpr (hs (ψ n))) (cast_nonneg _)
+
+private theorem μ_bddAbove' (hμ1 : μ 1 ≤ 1) {s : ℕ → ℕ} (hs : ∀ n : ℕ, s n ≤ n) (x : R)
+    (ψ : ℕ → ℕ) : BddAbove ((fun n : ℕ => μ (x ^ s (ψ n)) ^ (1 / (ψ n : ℝ))) '' Set.univ) := by
+  rw [Set.image_eq_range]
+  convert μ_bddAbove μ hμ1 hs x ψ
+  ext
+  simp only [one_div, Set.mem_range, Subtype.exists, Set.mem_univ, exists_const]
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:336]:
```suggestion
  simp [one_div, Set.mem_range, Subtype.exists, Set.mem_univ, exists_const]
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 43]
```diff
@@ -0,0 +1,625 @@
...
+      intro ε hε
+      have h1 : (1 : ℝ) ∈ Set.Ioo 0 (1 + ε) := by
+        simp only [Set.mem_Ioo, zero_lt_one, lt_add_iff_pos_right, hε, and_self]
+      obtain ⟨k, hk⟩ := hμ_lim (Set.Ioo (0 : ℝ) (1 + ε)) h1 isOpen_Ioo
+      exact hc_bd (1 + ε) k fun b hb => le_of_lt (Set.mem_Ioo.mp (hk b hb)).2
+
+theorem tendsto_smoothingFun_comp (hμ1 : μ 1 ≤ 1) (x : R) {ψ : ℕ → ℕ}
+    (hψ_mono : StrictMono ψ) :
+    Tendsto (fun n : ℕ => μ (x ^ ψ n) ^ (1 / ψ n : ℝ)) atTop (𝓝 (smoothingFun μ x)) :=
+  haveI hψ_lim' : Tendsto ψ atTop atTop := StrictMono.tendsto_atTop hψ_mono
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:385]:
```suggestion
  have hψ_lim' : Tendsto ψ atTop atTop := StrictMono.tendsto_atTop hψ_mono
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 44]
```diff
@@ -0,0 +1,625 @@
...
+  (tendsto_smoothingFun_of_map_one_le_one μ hμ1 x).comp hψ_lim'
+
+private theorem limsup_mu_le (hμ1 : μ 1 ≤ 1) {s : ℕ → ℕ} (hs_le : ∀ n : ℕ, s n ≤ n) {x : R}
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:388]: Can you move this `private theorem` up, to stay with the others?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 45]
```diff
@@ -0,0 +1,625 @@
...
+      ((tendsto_natCast_atTop_iff (R := ℝ)).mp <|
+        Tendsto.num (tendsto_natCast_atTop_atTop.comp hψ_mono.tendsto_atTop)
+          ha_pos hψ_lim)).rpow hψ_lim (Or.inr ha_pos)))))
+
+/-- If `μ 1 ≤ 1` and `μ` is nonarchimedean, then `smoothingFun μ` is nonarchimedean. -/
+theorem isNonarchimedean_smoothingFun (hμ1 : μ 1 ≤ 1) (hna : IsNonarchimedean μ) :
+    IsNonarchimedean (smoothingFun μ) := by
+  intro x y
+  have hn : ∀ n : ℕ, ∃ m < n + 1,
+        μ ((x + y) ^ (n : ℕ)) ^ (1 / (n : ℝ)) ≤ (μ (x ^ m) * μ (y ^ (n - m : ℕ))) ^ (1 / (n : ℝ)) :=
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:432]:
```suggestion
      μ ((x + y) ^ (n : ℕ)) ^ (1 / (n : ℝ)) ≤ (μ (x ^ m) * μ (y ^ (n - m : ℕ))) ^ (1 / (n : ℝ)) :=
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 46]
```diff
@@ -0,0 +1,625 @@
...
+    fun n => RingSeminorm.exists_index_pow_le μ hna x y n
+  set mu : ℕ → ℕ := fun n => mu μ hn n
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:434]:
```suggestion
  let mu : ℕ → ℕ := fun n => mu μ hn n
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 47]
```diff
@@ -0,0 +1,625 @@
...
+    rw [← div_self h0, ← sub_div, cast_sub (hmu_le _)]
+  have b_in : b ∈ Set.Icc (0 : ℝ) 1 := unitInterval.mem_iff_one_sub_mem.mp a_in
+  have hnu_le : ∀ n : ℕ, nu n ≤ n := fun n => by simp only [hnu, tsub_le_self]
+  have hx : limsup (fun n : ℕ => μ (x ^ mu (ψ n)) ^ (1 / (ψ n : ℝ))) atTop ≤
+      smoothingFun μ x ^ a := limsup_mu_le μ hμ1 hmu_le a_in hψ_mono hψ_lim
+  have hy : limsup (fun n : ℕ => μ (y ^ nu (ψ n)) ^ (1 / (ψ n : ℝ))) atTop ≤
+      smoothingFun μ y ^ b :=
+    limsup_mu_le μ hμ1 hnu_le b_in hψ_mono hb_lim
+  have hxy : limsup
+      (fun n : ℕ => μ (x ^ mu (ψ n)) ^ (1 / (ψ n : ℝ)) * μ (y ^ nu (ψ n)) ^ (1 / (ψ n : ℝ))) atTop ≤
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:458]: This line seems to be longer than 100 chars, no?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 48]
```diff
@@ -0,0 +1,625 @@
...
+      simp_rw [← rpow_mul (apply_nonneg μ _), mul_div]
+      exact EventuallyEq.comp₂ EventuallyEq.rfl HPow.hPow (h.div EventuallyEq.rfl)
+    exact le_of_eq (Tendsto.limsup_eq (Tendsto.congr' h_eq
+      ((((tendsto_smoothingFun_of_map_one_le_one μ hμ1 x).comp
+      ((tendsto_natCast_atTop_iff (R := ℝ)).mp <|
+        Tendsto.num (tendsto_natCast_atTop_atTop.comp hψ_mono.tendsto_atTop)
+          ha_pos hψ_lim)).rpow hψ_lim (Or.inr ha_pos)))))
+
+/-- If `μ 1 ≤ 1` and `μ` is nonarchimedean, then `smoothingFun μ` is nonarchimedean. -/
+theorem isNonarchimedean_smoothingFun (hμ1 : μ 1 ≤ 1) (hna : IsNonarchimedean μ) :
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:428]: The proof is quite long, can you comment it a little bit, either before or inline?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 49]
```diff
@@ -0,0 +1,625 @@
...
+      smoothingFun μ x ^ a * smoothingFun μ y ^ b + ε :=
+    Filter.exists_lt_of_limsup_le (bddAbove_range_mul (μ_bddAbove μ hμ1 hmu_le _ _)
+      (fun n => rpow_nonneg (apply_nonneg _ _) _) (μ_bddAbove μ hμ1 hnu_le _ _)
+        fun n => rpow_nonneg (apply_nonneg _ _) _).isBoundedUnder_of_range hxy hε
+  obtain ⟨N, hN⟩ := hex
+  apply le_trans (ciInf_le (smoothingSeminormSeq_bddBelow μ _)
+    ⟨ψ N, lt_of_le_of_lt (_root_.zero_le (ψ 0)) (hψ_mono.lt_iff_lt.mpr N.pos)⟩)
+  apply le_trans _ hN.le
+  simp only [PNat.mk_coe, hnu, ← mul_rpow (apply_nonneg μ _) (apply_nonneg μ _)]
+  exact mu_property μ hn (ψ N)
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:503]:
```suggestion
  simpa only [PNat.mk_coe, hnu, ← mul_rpow (apply_nonneg μ _) (apply_nonneg μ _)] using 
    mu_property μ hn (ψ N)
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 50]
```diff
@@ -0,0 +1,625 @@
...
+    apply le_of_tendsto_of_tendsto' (tendsto_smoothingFun_of_map_one_le_one μ hμ1 (x * y))
+      (Tendsto.mul (tendsto_smoothingFun_of_map_one_le_one μ hμ1 x)
+        (tendsto_smoothingFun_of_map_one_le_one μ hμ1 y))
+    intro n
+    have hn : 0 ≤ 1 / (n : ℝ) := by simp only [one_div, inv_nonneg, cast_nonneg]
+    simp only [smoothingSeminormSeq]
+    rw [← mul_rpow (apply_nonneg μ _) (apply_nonneg μ _), mul_pow]
+    exact rpow_le_rpow (apply_nonneg μ _) (map_mul_le_mul μ _ _) hn
+
+/-- If `μ 1 ≤ 1` and `μ` is nonarchimedean, then `smoothingSeminorm μ hμ1 hna 1 ≤ 1`. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:538]:
```suggestion
/-- If `μ 1 ≤ 1` and `μ` is nonarchimedean, then `smoothingSeminorm μ 1 ≤ 1`. -/
```
Although this does not reflect the code verbatim, I think it is more readable and useful.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 51]
```diff
@@ -0,0 +1,625 @@
...
+  intro x m hm
+  have hlim : Tendsto (fun n => smoothingSeminormSeq μ x (m * n)) atTop
+      (𝓝 (smoothingFun μ x)) :=
+    Tendsto.comp (tendsto_smoothingFun_of_map_one_le_one μ hμ1 x) (tendsto_atTop_atTop_of_monotone
+      (fun n k hnk ↦ mul_le_mul_left' hnk m) (fun n ↦ ⟨n, le_mul_of_one_le_left' hm⟩))
+  apply tendsto_nhds_unique _ (Tendsto.pow hlim m)
+  have h_eq : ∀ n : ℕ, smoothingSeminormSeq μ x (m * n) ^ m = smoothingSeminormSeq μ (x ^ m) n := by
+    have hm' : (m : ℝ) ≠ 0 := cast_ne_zero.mpr (_root_.ne_of_gt (lt_of_lt_of_le zero_lt_one hm))
+    intro n
+    simp only [smoothingSeminormSeq]
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:555]:
```suggestion
  have h_eq (n : ℕ) : smoothingSeminormSeq μ x (m * n) ^ m = smoothingSeminormSeq μ (x ^ m) n := by
    have hm' : (m : ℝ) ≠ 0 := cast_ne_zero.mpr (_root_.ne_of_gt (lt_of_lt_of_le zero_lt_one hm))
    simp only [smoothingSeminormSeq]
```

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 52]
```diff
@@ -0,0 +1,625 @@
...
+      apply le_trans (map_pow_le_pow μ x (one_le_iff_ne_zero.mp hn))
+      rw [hx0, zero_pow (pos_iff_ne_zero.mp hn)]
+    rw [hx0, hxn, zero_rpow (one_div_cast_ne_zero (one_le_iff_ne_zero.mp hn))]
+  · have h1 : μ 1 = 1 := by rw [← mul_right_inj' hx0, ← hx 1, mul_one, mul_one]
+    have hn0 : (n : ℝ) ≠ 0 := cast_ne_zero.mpr (_root_.ne_of_gt (lt_of_lt_of_le zero_lt_one hn))
+    rw [← mul_one (x ^ n), pow_isMul_of_isMul μ hx, ← rpow_natCast, h1, mul_one, ←
+      rpow_mul (apply_nonneg μ _), mul_one_div_cancel hn0, rpow_one]
+
+/-- If `μ 1 ≤ 1`, `μ` is nonarchimedean, and `∀ y : R, μ (x * y) = μ x * μ y`, then
+  `smoothingSeminorm μ hμ1 hna x = μ x`. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:593]:
```suggestion
  `smoothingSeminorm μ x = μ x`. -/
```

File: Mathlib/Data/Real/Basic.lean [hunk 53]
```diff
@@ -607,3 +607,11 @@ def IsPowMul {R : Type*} [Pow R ℕ] (f : R → ℝ) :=
...
+theorem pow_isMul_of_isMul {R : Type*} [MonoidWithZero R] (f : R → ℝ) {x : R}
```
Comment (faenuccio) [inline Mathlib/Data/Real/Basic.lean:612]: I am a bit sceptical about the name of this theorem (and the same applies for all `is_mul` and `isMul` in the file `SmoothingSeminorm`: we do not have (AFAIK) a `IsMul` class, whereas this naming in inspired from that. I would probably go for `pow_mul_apply_eq_pow_mul`, or something like this.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 54]
```diff
@@ -0,0 +1,625 @@
...
+    tendsto_const_nhds
+  simp only [EventuallyEq, eventually_atTop, ge_iff_le]
+  use 1
+  intro n hn
+  simp only [smoothingSeminormSeq]
+  have hn0 : (n : ℝ) ≠ 0 := cast_ne_zero.mpr (one_le_iff_ne_zero.mp hn)
+  rw [hx n hn, ← rpow_natCast, ← rpow_mul (apply_nonneg μ _), mul_one_div_cancel hn0, rpow_one]
+
+/-- If `μ 1 ≤ 1` and `∀ y : R, μ (x * y) = μ x * μ y`, then `smoothingFun μ x = μ x`. -/
+theorem smoothingFun_apply_of_isMul (hμ1 : μ 1 ≤ 1) {x : R}
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:573]: See my other comment (in `Basic`) about this `isMul` naming.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean [hunk 55]
```diff
@@ -0,0 +1,625 @@
...
+  intro n hn1
+  have hn0 : (n : ℝ) ≠ 0 := Nat.cast_ne_zero.mpr (_root_.ne_of_gt (lt_of_lt_of_le zero_lt_one hn1))
+  simp only [smoothingSeminormSeq]
+  rw [mul_pow, pow_isMul_of_isMul μ hx, mul_rpow (pow_nonneg (apply_nonneg μ _) _)
+    (apply_nonneg μ _), ← rpow_natCast, ← rpow_mul (apply_nonneg μ _), mul_one_div_cancel hn0,
+    rpow_one]
+
+/-- If `μ 1 ≤ 1`, `μ` is nonarchimedean, and `x` is multiplicative for `μ`, then `x` is
+  multiplicative for `smoothingSeminorm`. -/
+theorem smoothingSeminorm_of_mul (hμ1 : μ 1 ≤ 1) (hna : IsNonarchimedean μ) {x : R}
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:619]: Should this be `of_isMul` (and perhaps even something different if you agree with my comment about this naming in the `Basic.lean` file)?

**Review by faenuccio — COMMENTED** [review]
I left some other comment.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 42 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:336]: I can change it, but could you explain why you prefer this?

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 51 above)
Comment (faenuccio) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:555]: Oh, simply because the first line seemed to exceed the 100 chars and removing the \forall sign helps with this. Not really serious...

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 47 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:458]: It is exactly 100 chars.

Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:458]: I can shorten it a bit by removing the type of `n`.

Comment (faenuccio) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:458]: It should be my VSCode then (I hope you had not actually _counted_ them). Yes, removing the type seems a good idea.

File: Mathlib/Data/Real/Basic.lean (hunk 53 above)
Comment (faenuccio) [reply Mathlib/Data/Real/Basic.lean:612]: Oh, actually there is
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Center.html#IsMulCentral

Is it worth using that API? At any rate I would then replace all names `IsMul` with `IsMulCentral` to be aligned.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 47 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:458]: I used regular expression search in VSCode to search for `.{100}`. In any case, I think a linter would complain if it were over 100 chars (but I removed the type anyways).

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 51 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:555]: I think maybe my comment was not at the right place - I was asking about why to remove the `simp only` on line 336.

File: Mathlib/Data/Real/Basic.lean (hunk 53 above)
Comment (mariainesdff) [reply Mathlib/Data/Real/Basic.lean:612]: I don't see how to use `IsMulCentral` here (there is no map involved in that definition), but I am ok with renaming this lemma to `pow_mul_apply_eq_pow_mul`.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 55 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:619]: I have renamed this to `smoothingFun_apply_of_map_mul_eq_mul`. However, I am a bit worried that this makes it seem like the map is multiplicative, while the hypothesis is only that `x` is multiplicative with respect to that map.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 48 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:420]: I have added some inline comments.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 42 above)
Comment (faenuccio) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean]: Because while non-terminal `simp`s should always be `simp only` to avoid breaking the proof downwards, a terminal `simp` will not be broken by the list of `simp` lemmas being added, and there was a discussion here
https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/request.3A.20discourage.20squeezing.20terminal.20simps.3F

I forgot that this also applies to `simpa`, and I suggested a lot of `simpa only [...] using ...`: can you rever those to `simpa [...] using ...` removing the `only`? Sorry for the fuzz.

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 48 above)
Comment (faenuccio) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean:420]: Thanks!

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 51 above)
Comment (faenuccio) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean]: I think I suggested to remove the `intro n` (I think it is not line 336 anymore, right?)

File: Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean (hunk 42 above)
Comment (mariainesdff) [reply Mathlib/Analysis/Normed/Ring/SmoothingSeminorm.lean]: Done, except for the `simpa only` at line 108 (which breaks if I remove the `only`).

**Comment by faenuccio** [comment]
Thanks for all the work, LGTM!

**Comment by faenuccio** [comment]
maintainer merge

File: Mathlib/Data/Real/Basic.lean [hunk 56]
```diff
@@ -607,3 +607,11 @@ def IsPowMul {R : Type*} [Pow R ℕ] (f : R → ℝ) :=
 def RingHom.IsBoundedWrt {α : Type*} [Ring α] {β : Type*} [Ring β] (nα : α → ℝ) (nβ : β → ℝ)
     (f : α →+* β) : Prop :=
   ∃ C : ℝ, 0 < C ∧ ∀ x : α, nβ (f x) ≤ C * nα x
+
+/-- If `x` is multiplicative with respect to `f`, then so is any `x^n`. -/
+theorem pow_mul_apply_eq_pow_mul {R : Type*} [MonoidWithZero R] (f : R → ℝ) {x : R}
+    (hx : ∀ y : R, f (x * y) = f x * f y) : ∀ (n : ℕ) (y : R), f (x ^ n * y) = f x ^ n * f y := by
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:613]:
```suggestion
theorem pow_mul_apply_eq_pow_mul {R : Type*} [MonoidWithZero R] (f : R → ℝ) {x : R}
    (hx : ∀ y : R, f (x * y) = f x * f y) (n : ℕ) : ∀ (y : R), f (x ^ n * y) = f x ^ n * f y := by
```
then you can drop the `intro n`.

Also, this doesn't use anything about the real numbers, right? So the target of `f` could be any type with a multiplication, I guess. And then it could move to a basic algebra file.

**Review by jcommelin — COMMENTED** [review]
One minor comment. Otherwise LGTM

bors d+

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
